US07727988B2
1-(4-Chloro-butyl)-5-(2,4-dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione (Prep65)
5-(2,4-Dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione (Prep61, 300 mg, 1.45 mmol) was dissolved in dry DMF (4 ml) and K2CO3 (300 mg, 2.17 mmol) was added. The mixture was stirred at room temperature for 1 h, then a solution of 1-bromo-4-chloro-butane (commercially available from Aldrich, 496 mg, 2.9 mmol) in dry DMF (1 ml) was added. After stirring the reaction at room temperature for 48 hours, water was added and the mixture was extracted with diethylether. The aqueous layer was then extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated; the crude was used without further purification in the next step (200 mg, 47% yield).

reactant | 5-(2,4-Dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione | 1.45 mmol, 300 mg | CC=1OC(=C(N1)C)C=1C(NC(NC1)=O)=O | C9H9N3O3
reactant | K2CO3 | 2.17 mmol, 300 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-4-chloro-butane | BrCCCCCl | C4H8BrCl
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-butyl)-5-(2,4-dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione | 47% yield | ClCCCCN1C(NC(C(=C1)C1=C(N=C(O1)C)C)=O)=O | C13H16ClN3O3
